US04321372
Ethyl 4-(2-propyl)thiazol-2-ylcarbamoylcarboxylate was combined with 50 ml. of water and 6.2 ml. of 1 N potassium carbonate. The mixture was clarified, cooled, acidified with acetic acid and product extracted into 150 ml. of ethyl acetate in three portions. The combined extracts were dried over anhydrous sodium sulfate, filtered and evaporated to an oil, which partially crystallized on standing. The gummy solid was recrystallized from isopropyl alcohol, affording 4-(2-propyl)thiazol-2-ylcarbamoylcarboxylic acid [216 mg.; m.p. 195°-197° C. (dec.)].

reactant | Ethyl 4-(2-propyl)thiazol-2-ylcarbamoylcarboxylate | CC(C)C=1N=C(SC1)NC(=O)C(=O)OCC | C10H14N2O3S
reactant | water | O | H2O
reactant | potassium carbonate | 1 N | C([O-])([O-])=O.[K+].[K+]
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-(2-propyl)thiazol-2-ylcarbamoylcarboxylic acid | 216 mg | CC(C)C=1N=C(SC1)NC(=O)C(=O)O | C8H10N2O3S
